US04082751
Preparation 46: 1,6-Dihydro-6-oxo-2-(2-isobutoxyphenyl)-pyrimidine-5-carboxamide
A mixture of ethyl 1,6-dihydro-6-oxo-2-(2-isobutoxyphenyl)-pyrimidine-5-carboxylate (10.0 g., 0.0316 mole) and ammonium hydroxide (110 ml., d=0.9) was heated in a sealed steel bomb for 4.5 hours. The solution was partially evaporated and the residue acidified with 6N hydrochloric acid. The mixture was filtered and the collected solid recrystallized from N,N-dimethylformamide to give the title compound (7.5 g., 83% yield), m.p. 230°-231°.

reactant | ethyl 1,6-dihydro-6-oxo-2-(2-isobutoxyphenyl)-pyrimidine-5-carboxylate | 0.0316 mole, 10.0 g | O=C1C(=CN=C(N1)C1=C(C=CC=C1)OCC(C)C)C(=O)OCC | C17H20N2O4
reactant | ammonium hydroxide | 110 ml | [OH-].[NH4+]
product | 1,6-Dihydro-6-oxo-2-(2-isobutoxyphenyl)-pyrimidine-5-carboxamide | 7.5 g, 83% yield | O=C1C(=CN=C(N1)C1=C(C=CC=C1)OCC(C)C)C(=O)N | C15H17N3O3
